US07507739B2
A mixture of diethyl 2-{4-[4-(dimethylamino)butyl]-2,6-difluorophenyl]malonate (1.0 g, 2.7 mmol), 3-amino-1,2,4-triazole (250 mg, 3.0 mmol), and tributylamine (0.71 mL, 3.0 mmol) is stirred under nitrogen atmosphere at 160° C. for 16 h and cooled to room temperature. The mixture is stirred with 20 ml of hexanes. The precipitates are collected by filtration, washed with hexanes to give 6-{4-[4-(dimethylamino)butyl]-2,6-difluorophenyl}[1,2,4]triazolo[1,5-a]pyrimidine-5,7-diol as a white solid (795 mg). MS: m/z 362.1 (M−H).

reactant | diethyl 2-{4-[4-(dimethylamino)butyl]-2,6-difluorophenyl]malonate | 2.7 mmol, 1.0 g | CN(CCCCC1=CC(=C(C(=C1)F)C(C(=O)OCC)C(=O)OCC)F)C | C19H27F2NO4
reactant | 3-amino-1,2,4-triazole | 3.0 mmol, 250 mg | NC1=NNC=N1 | C2H4N4
reactant | tributylamine | 3.0 mmol, 0.71 mL | C(CCC)N(CCCC)CCCC | C12H27N
product | 6-{4-[4-(dimethylamino)butyl]-2,6-difluorophenyl}[1,2,4]triazolo[1,5-a]pyrimidine-5,7-diol | 795 mg | CN(CCCCC1=CC(=C(C(=C1)F)C=1C(=NC=2N(C1O)N=CN2)O)F)C | C17H19F2N5O2
